US07425641B2
a. 2-[5-(N-hydroxy-carbamimidoyl)-2-benzyloxy-phenyl]-N-[3-methyl-4-(pyrrolidin-1-yl-carbonyl)-phenyl]-acetamide-acetate
1.1 g (2.5 mmol) of 2-(5-cyano-2-benzyloxy-phenyl)-N-[3-methyl-4-(pyrrolidin-1-yl-carbonyl)-phenyl]-acetamide are dissolved in 100 ml of methanol and combined with a solution of 300 mg (5 mmol) of hydroxylamine hydrochloride in 2.0 ml of water. After the addition of 800 mg (2.5 mmol) of caesium carbonate and 300 mg (3.0 mmol) of sodium carbonate the reaction mixture is refluxed for 6 hours. After cooling and the addition of 0.5 l of ice water the crude product obtained is suction filtered and purified on silica gel, eluting first with methylene chloride and methylene chloride/ethanol (19:1), then with methylene chloride/ethanol (9:1+1% glacial acetic acid and 4:1+1% glacial acetic acid). The uniform fractions are combined and concentrated by evaporation.

reactant | 2-(5-cyano-2-benzyloxy-phenyl)-N-[3-methyl-4-(pyrrolidin-1-yl-carbonyl)-phenyl]-acetamide | 2.5 mmol, 1.1 g | C(#N)C=1C=CC(=C(C1)CC(=O)NC1=CC(=C(C=C1)C(=O)N1CCCC1)C)OCC1=CC=CC=C1 | C28H27N3O3
reactant | hydroxylamine hydrochloride | 5 mmol, 300 mg | Cl.NO
reactant | caesium carbonate | 2.5 mmol, 800 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium carbonate | 3.0 mmol, 300 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 2.0 ml | O | H2O
product | 2-[5-(N-hydroxy-carbamimidoyl)-2-benzyloxy-phenyl]-N-[3-methyl-4-(pyrrolidin-1-yl-carbonyl)-phenyl]-acetamide acetate | ONC(=N)C=1C=CC(=C(C1)CC(=O)NC1=CC(=C(C=C1)C(=O)N1CCCC1)C)OCC1=CC=CC=C1.C(C)(=O)[O-] | InChI=1S/C28H30N4O4.C2H4O2/c1-19-15-23(10-11-24(19)28(34)32-13-5-6-14-32)30-26(33)17-22-16-21(27(29)31-35)9-12-25(22)36-18-20-7-3-2-4-8-20;1-2(3)4/h2-4,7-12,15-16,35H,5-6,13-14,17-18H2,1H3,(H2,29,31)(H,30,33);1H3,(H,3,4)/p-1
